*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_0 1 2 3 4 REF
C_C1 1 REF 0.7227078163238pf
C_C2 1 2 16.374066220222pf
C_C3 1 3 0.028450640179pf
C_C4 1 4 0.2276167366445pf
C_C5 2 REF 0.9383761290746pf
C_C6 2 3 0.1176319626241pf
C_C7 3 REF 0.5107272295648pf
C_C8 3 4 5.6382568666252pf
C_C9 4 REF 0.5149267773744pf
L_L1 3 5 1.3020812958756nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_1 1 2 3 4 REF
C_C1 1 REF 0.6431762399921pf
C_C2 1 2 16.755973954819pf
C_C3 1 3 0.0264766080394pf
C_C4 1 4 0.2313335531557pf
C_C5 2 REF 0.8635935684872pf
C_C6 2 3 0.1181076416496pf
C_C7 3 REF 0.5122670459102pf
C_C8 3 4 4.1765924023712pf
C_C9 4 REF 0.5140345253187pf
L_L1 3 5 1.3032661343428nh
R_RL1 5 4 3.2620874208e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_2 1 2 3 4 REF
C_C1 1 REF 0.5722026426118pf
C_C2 1 2 17.181036968684pf
C_C3 1 3 0.0244860151769pf
C_C4 1 4 0.2355684421761pf
C_C5 2 REF 0.7980310825762pf
C_C6 2 3 0.1187623384404pf
C_C7 3 REF 0.5136405473214pf
C_C8 3 4 3.1543375820011pf
C_C9 4 REF 0.5134837766868pf
L_L1 3 5 1.3042539108703nh
R_RL1 5 4 2.0575826966e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_3 1 2 3 4 REF
C_C1 1 REF 0.4971572630926pf
C_C2 1 2 17.765509502548pf
C_C3 1 3 0.0219761833082pf
C_C4 1 4 0.2415780248604pf
C_C5 2 REF 0.7306976790826pf
C_C6 2 3 0.1198282277301pf
C_C7 3 REF 0.5151278399056pf
C_C8 3 4 2.2730865549738pf
C_C9 4 REF 0.5131221106776pf
L_L1 3 5 1.3052547483096nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_4 1 2 3 4 REF
C_C1 1 REF 0.4259178562888pf
C_C2 1 2 18.522106318264pf
C_C3 1 3 0.0189711802803pf
C_C4 1 4 0.2496242406881pf
C_C5 2 REF 0.669891448803pf
C_C6 2 3 0.1214182852673pf
C_C7 3 REF 0.5165907675523pf
C_C8 3 4 1.5653009820082pf
C_C9 4 REF 0.5129670419779pf
L_L1 3 5 1.306256297354nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_5 1 2 3 4 REF
C_C1 1 REF 0.371997296981pf
C_C2 1 2 19.344834381522pf
C_C3 1 3 0.0159206724156pf
C_C4 1 4 0.2586501622992pf
C_C5 2 REF 0.6278375590122pf
C_C6 2 3 0.1233674266698pf
C_C7 3 REF 0.5177374432117pf
C_C8 3 4 1.0957342738574pf
C_C9 4 REF 0.5129848275874pf
L_L1 3 5 1.3070664868061nh
R_RL1 5 4 -2.240970207e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_6 1 2 3 4 REF
C_C1 1 REF 0.3316958817759pf
C_C2 1 2 20.238548820243pf
C_C3 1 3 0.0127730513689pf
C_C4 1 4 0.2686822140304pf
C_C5 2 REF 0.6008899872851pf
C_C6 2 3 0.1256869301665pf
C_C7 3 REF 0.5186093775351pf
C_C8 3 4 0.7732017733441pf
C_C9 4 REF 0.5130874104986pf
L_L1 3 5 1.3077329407335nh
R_RL1 5 4 -3.439712782e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_7 1 2 3 4 REF
C_C1 1 REF 0.2976202489227pf
C_C2 1 2 21.390685639886pf
C_C3 1 4 0.2818287615713pf
C_C4 2 REF 0.5844839565374pf
C_C5 2 3 0.1289165261707pf
C_C6 3 REF 0.5193339731282pf
C_C7 3 4 0.5149946858983pf
C_C8 4 REF 0.5132534627006pf
L_L1 3 5 1.3083624509559nh
R_RL1 5 4 -4.596869894e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_8 1 2 3 4 REF
C_C1 1 REF 0.270287466215pf
C_C2 1 2 22.855744472841pf
C_C3 1 4 0.2986985029753pf
C_C4 2 REF 0.5799469114127pf
C_C5 2 3 0.1332904307221pf
C_C6 3 REF 0.5198639275663pf
C_C7 3 4 0.3153761406383pf
C_C8 4 REF 0.5134598707588pf
L_L1 3 5 1.3089574869849nh
R_RL1 5 4 -5.653182302e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_9 1 2 3 4 REF
C_C1 1 REF 0.2488951570345pf
C_C2 1 2 24.759590962141pf
C_C3 1 4 0.3206648960488pf
C_C4 2 REF 0.5882563521705pf
C_C5 2 3 0.1392888099012pf
C_C6 3 REF 0.5201686035767pf
C_C7 3 4 0.1674752476233pf
C_C8 4 REF 0.5136953775088pf
L_L1 1 5 93.323874977552nh
R_RL1 5 2 9.5453789454436
L_L2 3 6 1.3094770924691nh
R_RL2 6 4 -6.460563009e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_10 1 2 3 4 REF
C_C1 1 REF 0.2307884964715pf
C_C2 1 2 27.242162462545pf
C_C3 1 4 0.3491800816297pf
C_C4 2 REF 0.6085592064962pf
C_C5 2 3 0.147436838191pf
C_C6 3 REF 0.5202581790929pf
C_C7 3 4 0.0597145819671pf
C_C8 4 REF 0.5139568243058pf
L_L1 1 5 58.212029623304nh
R_RL1 5 2 6.1430198871367
L_L2 3 6 1.3099085374001nh
R_RL2 6 4 -6.934191788e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_11 1 2 3 4 REF
C_C1 1 REF 0.2120320082499pf
C_C2 1 2 30.602544031884pf
C_C3 1 4 0.3874172719762pf
C_C4 2 REF 0.6409356350246pf
C_C5 2 3 0.158824831938pf
C_C6 3 REF 0.5201443014566pf
C_C7 4 REF 0.514257747383pf
L_L1 1 5 36.071759263722nh
R_RL1 5 2 3.3215287269441
L_L2 3 6 1.3101290075163nh
R_RL2 6 4 -6.947436987e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_12 1 2 3 4 REF
C_C1 1 REF 0.1873440688702pf
C_C2 1 2 35.253984639632pf
C_C3 1 4 0.4397488355339pf
C_C4 2 REF 0.6856339917385pf
C_C5 2 3 0.174942614187pf
C_C6 3 REF 0.519853438683pf
C_C7 4 REF 0.5146216997058pf
L_L1 1 5 21.908293920667nh
R_RL1 5 2 1.5004648178101
L_L2 3 6 1.3099055428426nh
R_RL2 6 4 -6.43711669e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_13 1 2 3 4 REF
C_C1 1 REF 0.1483918609474pf
C_C2 1 2 42.107211702561pf
C_C3 1 4 0.5159735622811pf
C_C4 2 REF 0.7468955660877pf
C_C5 2 3 0.1990450674124pf
C_C6 3 REF 0.5193877605705pf
C_C7 4 REF 0.515104075495pf
L_L1 1 5 12.713931561547nh
R_RL1 5 2 -0.274832115766
L_L2 3 6 1.3094853648104nh
R_RL2 6 4 1.1593503586e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_14 1 2 3 4 REF
C_C1 1 REF 0.0821123329378pf
C_C2 1 2 52.787329423485pf
C_C3 1 4 0.6336896526167pf
C_C4 2 REF 0.8343766155541pf
C_C5 2 3 0.236900198389pf
C_C6 3 REF 0.5187322559116pf
C_C7 4 REF 0.5158124029461pf
L_L1 1 5 7.2292349830193nh
R_RL1 5 2 0.4324709470839
L_L2 3 6 1.3088090182573nh
R_RL2 6 4 -3.70660764e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_15 1 2 3 4 REF
C_C1 1 2 71.493079614206pf
C_C2 1 4 0.8386003807381pf
C_C3 2 REF 0.9766367803324pf
C_C4 2 3 0.30338854058pf
C_C5 3 REF 0.517792659419pf
C_C6 4 REF 0.5170455234975pf
R_R1 1 2 460.32215764734
L_L1 1 5 3.9118526950152nh
R_RL1 5 2 -0.077147387645
L_L2 3 6 1.3075814381919nh
R_RL2 6 4 -1.616285408e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_16 1 2 3 4 REF
C_C1 1 2 113.31873663224pf
C_C2 1 4 1.2953533156523pf
C_C3 2 REF 1.2804069893603pf
C_C4 2 3 0.4520186606609pf
C_C5 3 REF 0.5161657456536pf
C_C6 4 REF 0.519924491306pf
R_R1 1 2 134.44437165988
L_L1 1 5 1.6748872616785nh
R_RL1 5 2 -0.15377848802
L_L2 1 6 71.902464493906nh
R_RL2 6 3 -0.214923142386
L_L3 1 7 71.151411250835nh
R_RL3 7 4 -0.215342902354
L_L4 2 8 71.991920505835nh
R_RL4 8 3 0.019621614102
L_L5 2 9 71.243702741648nh
R_RL5 9 4 0.0192390075663
L_L6 3 10 1.3048956301531nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.072235842188
Kn_K2 L_L1 L_L3 0.0724862205533
Kn_K3 L_L1 L_L4 -0.080337519995
Kn_K4 L_L1 L_L5 -0.080888066475
Kn_K5 L_L2 L_L3 0.9908919489336
Kn_K6 L_L2 L_L4 0.9883604924619
Kn_K7 L_L2 L_L5 0.9791741953651
Kn_K8 L_L2 L_L6 -0.106126181519
Kn_K9 L_L3 L_L4 0.9792199120852
Kn_K10 L_L3 L_L5 0.9882379552377
Kn_K11 L_L3 L_L6 0.028739323907
Kn_K12 L_L4 L_L5 0.9909033860619
Kn_K13 L_L4 L_L6 -0.105913951836
Kn_K14 L_L5 L_L6 0.0288677428622
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_17 1 2 3 4 REF
C_C1 1 2 251.16297394033pf
C_C2 1 4 2.7992102522831pf
C_C3 2 REF 2.2614538913342pf
C_C4 2 3 0.9413681570367pf
C_C5 3 REF 0.5120223284106pf
C_C6 4 REF 0.5300443559144pf
R_R1 1 2 30.581537212748
L_L1 1 5 64.39777977995nh
R_RL1 5 REF -1.346258588757
L_L2 1 6 0.5146840280246nh
R_RL2 6 2 -0.078951667403
L_L3 1 7 25.515705057221nh
R_RL3 7 3 -0.077318650303
L_L4 1 8 24.815167067356nh
R_RL4 8 4 -0.078332910805
L_L5 2 9 63.995808298774nh
R_RL5 9 REF -1.520242585261
L_L6 2 10 25.599621098914nh
R_RL6 10 3 0.0045823765373
L_L7 2 11 24.902949527196nh
R_RL7 11 4 0.0043976533893
L_L8 3 12 89.293266038232nh
R_RL8 12 REF -1.487043085385
L_L9 3 13 1.2961871675162nh
R_RL9 13 4 3.2824992608e-5
L_L10 4 14 88.583010963409nh
R_RL10 14 REF -1.488692769977
Kn_K1 L_L1 L_L2 0.0796105023538
Kn_K2 L_L1 L_L5 0.9959962385014
Kn_K3 L_L1 L_L8 0.845141997618
Kn_K4 L_L1 L_L10 0.8484590634175
Kn_K5 L_L2 L_L3 0.0594345928725
Kn_K6 L_L2 L_L4 0.0597267395074
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082455504484
Kn_K9 L_L2 L_L7 -0.08414090113
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9743410613738
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9899322595065
Kn_K15 L_L3 L_L7 0.9640778252258
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.173600370875
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9642739864123
Kn_K21 L_L4 L_L7 0.9896495006081
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0525131524399
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.844578289071
Kn_K26 L_L5 L_L10 0.8478672217473
Kn_K27 L_L6 L_L7 0.9744269529437
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.172979999842
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.052760783559
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0932509906115
Kn_K35 L_L8 L_L10 0.9927208985306
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_18 1 2 3 4 REF
C_C1 1 2 2380.2481217341pf
C_C2 1 4 26.006723155337pf
C_C3 2 REF 17.295593996693pf
C_C4 2 3 8.5202540290636pf
C_C5 3 REF 0.4576978394242pf
C_C6 4 REF 0.6931412625168pf
R_R1 1 REF -80.84745347128
R_R2 1 2 0.6603596058277
R_R3 1 3 -222.8743330188
R_R4 1 4 57.861460725627
R_R5 2 REF 80.74091798299
R_R6 2 3 222.93580235399
R_R7 2 4 -57.87927479668
L_L1 1 5 4.3017164488324nh
R_RL1 5 REF -0.014608170171
L_L2 1 6 0.0359133129771nh
R_RL2 6 2 -0.023276265295
L_L3 1 7 2.7262189383565nh
R_RL3 7 3 -0.012739999264
L_L4 1 8 2.121883891466nh
R_RL4 8 4 -0.016322271146
L_L5 2 9 4.2770659648997nh
R_RL5 9 REF -0.043697978985
L_L6 2 10 2.734277700342nh
R_RL6 10 3 -1.400065302e-3
L_L7 2 11 2.134792297903nh
R_RL7 11 4 -5.236121299e-4
L_L8 3 12 6.9877915196589nh
R_RL8 12 REF -0.031422990227
L_L9 3 13 1.1708454754344nh
R_RL9 13 4 -1.644585857e-4
L_L10 4 14 6.3769326800191nh
R_RL10 14 REF -0.035630594075
Kn_K1 L_L1 L_L2 0.0770432284892
Kn_K2 L_L1 L_L5 0.995817816138
Kn_K3 L_L1 L_L8 0.7809437387419
Kn_K4 L_L1 L_L10 0.816869752456
Kn_K5 L_L2 L_L3 0.0445100483561
Kn_K6 L_L2 L_L4 0.0416679308256
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.070161347046
Kn_K9 L_L2 L_L7 -0.088161206712
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.01182503345
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7644566385647
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9934241502605
Kn_K16 L_L3 L_L7 0.7563688362644
Kn_K17 L_L3 L_L8 0.9809802687103
Kn_K18 L_L3 L_L9 -0.496800898019
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7585538775519
Kn_K22 L_L4 L_L7 0.9915676213195
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1797079600596
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7801993957514
Kn_K27 L_L5 L_L10 0.8156244789875
Kn_K28 L_L6 L_L7 0.7653571689454
Kn_K29 L_L6 L_L8 0.9757920456344
Kn_K30 L_L6 L_L9 -0.494713027957
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1806975599233
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3114482360196
Kn_K36 L_L8 L_L10 0.91334738547
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_19 1 2 3 4 REF
C_C1 1 REF 21.086193254875pf
C_C2 1 3 10.441780567881pf
C_C3 2 4 31.84750330815pf
C_C4 3 REF 0.5899793301771pf
C_C5 4 REF 0.2843983994683pf
R_R1 1 REF 93.706295959799
R_R2 1 2 -0.813442066663
R_R3 1 3 301.23676942749
R_R4 1 4 -69.90613445908
R_R5 2 REF -94.14149765227
R_R6 2 3 -301.3196145788
R_R7 2 4 69.929128655452
L_L1 1 5 2.9082705541298nh
R_RL1 5 REF -9.251625201e-3
L_L2 1 6 0.0614561984979nh
R_RL2 6 2 0.7029885042247
L_L3 1 7 2.0339742957794nh
R_RL3 7 3 0.2961335661808
L_L4 1 8 1.475644077987nh
R_RL4 8 4 0.4499908203231
L_L5 2 9 2.924947640818nh
R_RL5 9 REF 0.7508064173811
L_L6 2 10 2.0320444200766nh
R_RL6 10 3 0.0864406073674
L_L7 2 11 1.4661414326846nh
R_RL7 11 4 0.0280001045358
L_L8 3 12 4.9252522181621nh
R_RL8 12 REF 0.3232629737958
L_L9 3 13 1.1115178042547nh
R_RL9 13 4 0.0160757329414
L_L10 4 14 4.3720020456971nh
R_RL10 14 REF 0.4857516206777
Kn_K1 L_L1 L_L2 0.0529596651021
Kn_K2 L_L1 L_L5 0.9894684876015
Kn_K3 L_L1 L_L8 0.7661830615218
Kn_K4 L_L1 L_L10 0.8139296221692
Kn_K5 L_L2 L_L3 0.089641328169
Kn_K6 L_L2 L_L4 0.1178156215959
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.084222788166
Kn_K9 L_L2 L_L7 -0.086539519532
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0144871744548
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6921079801773
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9848855227382
Kn_K16 L_L3 L_L7 0.6759944345516
Kn_K17 L_L3 L_L8 0.9161724318819
Kn_K18 L_L3 L_L9 -0.555285085568
Kn_K19 L_L3 L_L10 0.9732659448805
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6719476341763
Kn_K22 L_L4 L_L7 0.9791143266839
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2159699903457
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7664468406132
Kn_K27 L_L5 L_L10 0.8152663886796
Kn_K28 L_L6 L_L7 0.6913651614577
Kn_K29 L_L6 L_L8 0.9195481771346
Kn_K30 L_L6 L_L9 -0.558068122321
Kn_K31 L_L6 L_L10 0.9781196579658
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2137027026819
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3557552092972
Kn_K36 L_L8 L_L10 0.8820096705274
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_20 1 2 3 4 REF
C_C1 1 2 256.38364958503pf
C_C2 1 4 2.8541811086721pf
C_C3 2 REF 2.30489781719pf
C_C4 2 3 0.9584259467195pf
C_C5 3 REF 0.5094282434283pf
C_C6 4 REF 0.5277915032987pf
R_R1 1 2 -22.3164056297
L_L1 1 5 35.688183810324nh
R_RL1 5 REF -1.706902977364
L_L2 1 6 0.162450749914nh
R_RL2 6 2 0.0248410867143
L_L3 1 7 14.420849773818nh
R_RL3 7 3 1.8360892183e-5
L_L4 1 8 13.722547685122nh
R_RL4 8 4 6.6287034232e-4
L_L5 2 9 35.345805757465nh
R_RL5 9 REF -1.716545477817
L_L6 2 10 14.528640153857nh
R_RL6 10 3 0.0070521164181
L_L7 2 11 13.838280827033nh
R_RL7 11 4 0.0063098398769
L_L8 3 12 49.825631680211nh
R_RL8 12 REF -1.776280778213
L_L9 3 13 1.2839628886643nh
R_RL9 13 4 8.6797624871e-5
L_L10 4 14 49.116569958972nh
R_RL10 14 REF -1.777099994169
Kn_K1 L_L1 L_L2 0.1048313179856
Kn_K2 L_L1 L_L5 0.9977246455343
Kn_K3 L_L1 L_L8 0.8429620162231
Kn_K4 L_L1 L_L10 0.8488963448028
Kn_K5 L_L2 L_L3 0.0178560866139
Kn_K6 L_L2 L_L4 0.0156448847447
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087952483807
Kn_K9 L_L2 L_L7 -0.092768397141
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9546717460025
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943953692705
Kn_K15 L_L3 L_L7 0.9487366138116
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.230335061084
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9494693945857
Kn_K21 L_L4 L_L7 0.9941145025371
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0697625827732
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8416713462593
Kn_K26 L_L5 L_L10 0.847500456712
Kn_K27 L_L6 L_L7 0.9550201801014
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.228559521117
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0704124080486
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1245890927972
Kn_K35 L_L8 L_L10 0.9870484482538
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_21 1 2 3 4 REF
C_C1 1 REF 0.0389716558042pf
C_C2 1 2 63.877165952518pf
C_C3 1 4 0.7501385683936pf
C_C4 2 REF 0.9391266916414pf
C_C5 2 3 0.2768142444185pf
C_C6 3 REF 0.513418397221pf
C_C7 4 REF 0.5117537316699pf
R_R1 1 2 -213.620500472
L_L1 1 5 0.5536230871383nh
R_RL1 5 2 -0.18798552909
L_L2 1 6 55.77922653598nh
R_RL2 6 3 -0.064015063938
L_L3 1 7 54.938255561232nh
R_RL3 7 4 -0.061933640341
L_L4 2 8 56.419186271275nh
R_RL4 8 3 -0.420131745173
L_L5 2 9 55.585453886316nh
R_RL5 9 4 -0.414478539126
L_L6 3 10 1.2998011163962nh
R_RL6 10 4 3.4507549572e-5
Kn_K1 L_L1 L_L4 -0.106782985492
Kn_K2 L_L1 L_L5 -0.108233263372
Kn_K3 L_L2 L_L3 0.9882887093262
Kn_K4 L_L2 L_L4 0.9950818650051
Kn_K5 L_L2 L_L5 0.9832936526918
Kn_K6 L_L2 L_L6 -0.125708817721
Kn_K7 L_L3 L_L4 0.9835080602794
Kn_K8 L_L3 L_L5 0.995007970507
Kn_K9 L_L3 L_L6 0.0271485137396
Kn_K10 L_L4 L_L5 0.988422497873
Kn_K11 L_L4 L_L6 -0.12457118884
Kn_K12 L_L5 L_L6 0.0274158010879
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_22 1 2 3 4 REF
C_C1 1 REF 0.3114504204112pf
C_C2 1 2 26.37552863124pf
C_C3 1 4 0.3376884217068pf
C_C4 2 REF 0.6763204453708pf
C_C5 2 3 0.1425608308511pf
C_C6 3 REF 0.5137200848686pf
C_C7 4 REF 0.5079706741248pf
L_L1 1 5 0.8934752473069nh
R_RL1 5 2 -0.037165881466
L_L2 3 6 1.3025173413533nh
R_RL2 6 4 1.1307506838e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_23 1 2 3 4 REF
C_C1 1 REF 0.407063391452pf
C_C2 1 2 13.86578214972pf
C_C3 1 3 0.0575865550898pf
C_C4 1 4 0.1990087377357pf
C_C5 2 REF 0.594538879451pf
C_C6 2 3 0.0959160819235pf
C_C7 3 REF 0.5131937044916pf
C_C8 4 REF 0.5060405022385pf
L_L1 1 5 1.2571554402918nh
R_RL1 5 2 -1.711908253e-3
L_L2 3 6 1.3005182656138nh
R_RL2 6 4 -1.61521981e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_24 1 2 3 4 REF
C_C1 1 REF 0.4500236941963pf
C_C2 1 2 8.7786217795269pf
C_C3 1 3 0.0826844540572pf
C_C4 1 4 0.1422698086815pf
C_C5 2 REF 0.5677939636548pf
C_C6 2 3 0.0746905262714pf
C_C7 2 4 0.0255494974925pf
C_C8 3 REF 0.5116219848528pf
C_C9 4 REF 0.503728234827pf
L_L1 1 5 1.730275750088nh
R_RL1 5 2 0.0030239470159
L_L2 3 6 1.2981861711696nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_25 1 2 3 4 REF
C_C1 1 REF 0.4741569586756pf
C_C2 1 2 6.6983483161982pf
C_C3 1 3 0.1006199326435pf
C_C4 1 4 0.1156073105066pf
C_C5 2 REF 0.5642013513362pf
C_C6 2 3 0.0615309160986pf
C_C7 2 4 0.0572433277909pf
C_C8 3 REF 0.5096323356134pf
C_C9 4 REF 0.5012109480785pf
L_L1 1 5 1.8936239202961nh
R_RL1 5 2 -5.707893968e-4
L_L2 3 6 1.2952064859367nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_26 1 2 3 4 REF
C_C1 1 REF 0.4848888062132pf
C_C2 1 2 6.206471983225pf
C_C3 1 3 0.1123529897949pf
C_C4 1 4 0.1056482606866pf
C_C5 2 REF 0.5696239589682pf
C_C6 2 3 0.0535501815274pf
C_C7 2 4 0.0711579557762pf
C_C8 3 REF 0.5080572501649pf
C_C9 4 REF 0.4993152853264pf
L_L1 1 5 1.9392151562337nh
R_RL1 5 2 6.5848170348e-5
L_L2 3 6 1.2939336342132nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param32_26

